US06420365B1
A solution of 240 mg (0.35 mmol) ethyl 2-{4-bromo-2-[(2-{[(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carbonylamino]methyl}(imidazolo[1,2-a]pyridin-3-yl))methyl]phenoxy}acetate in 4 mL methanol is treated with 55 mg (1.3 mmol) sodium hydroxide. The solution is stirred at room temperature for 3 hr and the solvent removed in vacuo. The residue is redissolved in 5 mL dichloromethane and acidified with 1M hydrochloric acid in ether. The solvent is removed in vacuo and 5 mL dichloromethane is added. The solution is filtered through Celite and the filtrate treated with excess IM hydrochloric acid in ether. The solvent is removed in vacuo and the residue triturated with ether to give 133 mg (58%) 2-{4-bromo-2-[(2-{[(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carbonylamino]methyl}(imidazolo[1,2-a]pyridin-3-yl))methyl]phenoxy}acetic acid mono hydrochloride. Mass Spec m/z (M++1) 658.

reactant | ethyl 2-{4-bromo-2-[(2-{[(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carbonylamino]methyl}(imidazolo[1,2-a]pyridin-3-yl))methyl]phenoxy}acetate | 0.35 mmol, 240 mg | BrC1=CC(=C(OCC(=O)OCC)C=C1)CC1=C(N=C2N1C=CC=C2)CN(C(=O)CCC(C)C)C2=C(C(=C(C=C2)OC)OC)Cl | C33H37BrClN3O6
reactant | sodium hydroxide | 1.3 mmol, 55 mg | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 2-{4-bromo-2-[(2-{[(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carbonylamino]methyl}(imidazolo[1,2-a]pyridin-3-yl))methyl]phenoxy}acetic acid mono hydrochloride | 133 mg, 58% | Cl.BrC1=CC(=C(OCC(=O)O)C=C1)CC1=C(N=C2N1C=CC=C2)CN(C(=O)CCC(C)C)C2=C(C(=C(C=C2)OC)OC)Cl | InChI=1S/C31H33BrClN3O6.ClH/c1-19(2)8-13-28(37)36(23-10-12-26(40-3)31(41-4)30(23)33)17-22-24(35-14-6-5-7-27(35)34-22)16-20-15-21(32)9-11-25(20)42-18-29(38)39;/h5-7,9-12,14-15,19H,8,13,16-18H2,1-4H3,(H,38,39);1H
